US05574064
Synthesis of N-phenoxycarbonyl-L-valyl-N-(4-chlorobenzyl)-DL-alaninamide (Compound No. 516)
0.55 g of N-methyhnorpholine, and subsequently 0.43 g of phenyl chloroformate were added to a suspension containing 0.95 g of L-valyl-N-(4-chlorobenzyl)-DL-alaninamide, hydrochloride suspended in 50 ml of methylene chloride at -15° C. The mixture was allowed to sit and warm naturally to room temperature and stirred for 15 hours at room temperature. Water was subsequently added to the reaction mixture. After the methylene chloride layer was washed with water, the organic layer was dried over anhydrous magnesium sulfate and then the methylene chloride was removed under reduced pressure. The residue was purified by column chromatography on silica gel, thus obtaining 0.9 g of the desired product in the form of white powder (yield: 75%).

reactant | N-methyhnorpholine | 0.55 g | CN1CCOCC1 | C5H11NO
reactant | phenyl chloroformate | 0.43 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | L-valyl-N-(4-chlorobenzyl)-DL-alaninamide, hydrochloride | 0.95 g | Cl.N[C@@H](C(C)C)C(=O)NC(C)C(=O)NCC1=CC=C(C=C1)Cl
reactant | Water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-phenoxycarbonyl-L-valyl-N-(4-chlorobenzyl)-DL-alaninamide | 0.9 g | O(C1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)NC(C)C(=O)NCC1=CC=C(C=C1)Cl | C22H26ClN3O4
